US05498799
An optically active 5-methylenedioxolan-4-one derivative is subjected to Diels-Alder reaction with cyclopentadiene, and the resulting Diels-Alder reaction product is hydrolyzed to convert it into an optically active 2-hydroxynorbornene-2-carboxylic acid, which is then subjected to catalytic hydrogenation to form an optically active 2-hydroxynorbornane-2-carboxylic acid. The hydroxycarboxylic acid is subjected to oxidative decarboxylation to obtain an optically active 2-norbornanone.

reactant | 5-methylenedioxolan-4-one | C=C1C(OCO1)=O | C4H4O3
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | 2-hydroxynorbornene-2-carboxylic acid | OC1(C2=CCC(C1)C2)C(=O)O | C8H10O3
product | 2-hydroxynorbornane-2-carboxylic acid | OC1(C2CCC(C1)C2)C(=O)O | C8H12O3
